US05081131
Chlorosulfonation of benz(cd)indol-2-(1H-one yields the 6-sulfonylchloride derivative, which upon treatment with zinc dust in acetic acid-hydrochloric acid solution, yields 6-mercaptobenz(cd)indol-2-(1H)-one. Treatment with dimethyl sulfate in alkaline solution leads to 6-methylthiobenz(cd)indol-2-(1H)-one, which on heating with P2S5 in pyridine yields 6-methylthiobenz(CD)indol-2-thiol. The reaction of the latter compound with molar equivalents of 3-(4-pyridinyl)propanamine and mercuric acetate in ethanol, under the conditions of Example 55, leads to the title compound.

reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 6-methylthiobenz(cd)indol-2-(1H)-one | CSC=1C=2C3=C(C(NC3=CC1)=O)C=CC2 | C12H9NOS
reactant | P2S5 | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-methylthiobenz(CD)indol-2-thiol | CSC=1C=2C3=C(C(=NC3=CC1)S)C=CC2 | C12H9NS2
